US06417212B1
A. 2-(4-{2-[2-(4′-Formylbiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl propionic acid ethyl ester
A solution of 2-(4-{2-[2-(3-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester (0.907 mmol) (see Ex. 3, part F) and 1-(4-formylphenyl)boronic acid (0.998 mmol) in toluene:ethanol (18.2 mL of a 1:1 solution) was treated with Na2CO3(aq) (0.906 mL of a 2M solution). A nitrogen atmosphere was applied, Pd(PPh3)4 (0.045 mmol) was added, and the orange mixture was heated at reflux for 2 h. After cooling to room temperature, the mixture was partitioned between ethyl acetate (20 mL) and H2O (30 mL). The layers were separated, and the aqueous phase was back-extracted with ethyl acetate (2×10 mL). Combined organic phases were washed with brine (20 mL), dried over Na2SO4, and concentrated. The product was purified by silica gel chromatography (20 g SiO2, 3:7 ethyl acetate:hexanes). Rf=0.24 in 1:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ10.03 (s, 1H), 9.21 (s, 1H), 9.02-8.94 (m, 3H), 8.81-8.78 (m, 2H), 8.46-8.41 (m, 1H), 8.36-8.30 (m, 1H), 6.79-6.71 (m, 4H), 4.23-4.16 (m, 4H), 2.94 (t, 2H), 2.37 (s, 3H), 1.26 (s, 6H), 1.24 (t, 3H); MS (EI) 514.2 (M+H)+.

reactant | 2-(4-{2-[2-(3-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 0.907 mmol | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC(=CC=C1)Br)=O | C24H26BrNO5
reactant | ethanol | C(C)O | C2H6O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.045 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-{2-[2-(4′-Formylbiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=C(C=C1)C=O)=O | C31H31NO6
